US08669266B2
(i) 2-[1-m-Tolyl-meth-(E)-ylidene]-succinic acid diethyl ester
To a solution of 22.6 g sodium ethylate in 440 ml of ethanol, 20 g of 3-Methyl-benzaldehyde and 31 g of Malonic acid diethyl ester dissolved in 100 ml ethanol was added drop-wise over 1.5 h at 50° C. Then, the reaction mixture was heated to reflux for 12 h. After cooling to RT half of the solvent was evaporated under reduced pressure and diluted with 200 ml of water. The remaining reaction mixture was acidified to pH 1 by addition of concentrated hydrochloric acid and then extracted with ethyl acetate. The organic phase was dried over MgSO4 and the solvents were removed under reduced pressure. The crude product was pure enough for the next reaction step.

reactant | sodium ethylate | 22.6 g | CC[O-].[Na+]
reactant | 3-Methyl-benzaldehyde | 20 g | CC=1C=C(C=O)C=CC1 | C8H8O
reactant | Malonic acid diethyl ester | 31 g | C(C)OC(CC(=O)OCC)=O | C7H12O4
reactant | hydrochloric acid | Cl | ClH
reactant | ethanol | 440 ml | C(C)O | C2H6O
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 2-[1-m-Tolyl-meth-(E)-ylidene]-succinic acid diethyl ester | C(C)OC(/C(/CC(=O)OCC)=C/C=1C=C(C=CC1)C)=O | C16H20O4
